US04202901
A mixture of 9.0 g of 5-(3-chloropropoxy)-2-pyridine-carboxylic acid methyl ester and 100 ml of 6 N-hydrochloric acid is heated on a steam bath for 30 minutes. After that, the solution is cooled and evaporated to a residue. To the residue is added water and the resulting suspension is adjusted to pH 5 with saturated aqueous solution of sodium bicarbonate. The precipitated product is collected, dissolved in ethyl acetate and filtered. The filtrate is evaporated to a small volume. To the concentrate is added hexane to yield 5-(3-chloropropoxy)-2-pyridinecarboxylic acid melting at 120°-121°.

reactant | 5-(3-chloropropoxy)-2-pyridine-carboxylic acid methyl ester | 9.0 g | COC(=O)C1=NC=C(C=C1)OCCCCl | C10H12ClNO3
reactant | hydrochloric acid | Cl | ClH
product | 5-(3-chloropropoxy)-2-pyridinecarboxylic acid | ClCCCOC=1C=CC(=NC1)C(=O)O | C9H10ClNO3
